US06147255
(b) N-Methyl-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-pyrrolecarboxaldehyde
1.3 g (4.6 mmol) of 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-pyrrolecarboxaldehyde and 50 ml of THF are introduced into a three-necked flask under a stream of nitrogen. 300 mg (10 mmol) of sodium hydride (80% in oil) are added portionwise and the mixture is stirred until the evolution of gas has ceased. 640 μl (10 mmol) of iodomethane are then added and the mixture is stirred at room temperature for one hour. The reaction medium is poured into water and extracted with ethyl acetate, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of dichloromethane and heptane (70/30). After evaporation of the solvents, 600 mg (44%) of the expected product are collected.

reactant | 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-pyrrolecarboxaldehyde | 4.6 mmol, 1.3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=1C=C(NC1)C=O)C | C19H23NO
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | sodium hydride | 10 mmol, 300 mg | [H-].[Na+]
reactant | iodomethane | 10 mmol, 640 μl | IC | CH3I
solvent | water | O | H2O
product | N-Methyl-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-pyrrolecarboxaldehyde | CN1C(=CC(=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C=O | C20H25NO
